US05885999
4-[2-Methylphenyl]piperidine Hydrochloride
Tetrakis(triphenylphosphine)palladium (0) (100 mg) was added to a degassed mixture of 1-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine (1.32 g), 2-formylphenylboronic acid (850 mg), lithium chloride (504 mg) and aqueous sodium carbonate (2N, 5.47 mL) in 1,2-dimethoxyethane (30 mL). The resulting solution was heated under reflux for 3 h., cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous sodium carbonate (2M) and the organic layer was separated, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol, palladium on carbon (10%) was added and the mixture was shaken under hydrogen (50 psi.) for 3 h. The mixture was filtered through Hyflo, the solvent was evaporated under reduced pressure and the residue was purified by MPLC on silica gel, eluting with EtOAc/Hexane (5:95). The residue was dissolved in ethanolic hydrogen chloride (50 mL) and stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure to give the title compound as a colorless solid (610 mg). m/e (ES+) 176 (MH+).

reactant | 1-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 1.32 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | 2-formylphenylboronic acid | 850 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | lithium chloride | 504 mg | [Cl-].[Li+]
reactant | sodium carbonate | 2N, 5.47 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-Methylphenyl]piperidine Hydrochloride | 610 mg | Cl.CC1=C(C=CC=C1)C1CCNCC1 | InChI=1S/C12H17N.ClH/c1-10-4-2-3-5-12(10)11-6-8-13-9-7-11;/h2-5,11,13H,6-9H2,1H3;1H
